US06667316B1
A mixture of 3-(1,3-dioxo-4-pyrrolylisoindolin-2-yl)-3-(3-ethoxy-4-methoxy-phenyl)propanoic acid (1.29 g, 2.97 mmol), and carbonyldiimidazole (481 mg, 2.97 mmol) in tetrahydrofuran (13 mL) was stirred at room temperature for 2 h. To the mixture was added dimethylamine in tetrahydrofuran (1.7 mL, 2N, 3.4 mmol) and the mixture stirred for an additional 2 h. Water (70 mL) and methylene chloride (50 mL) was added to the mixture. The organic layer was separated, washed with brine (20 mL), and dried over magnesium sulfate. The solvent was removed in vacuo to give a brown solid. This solid was purified by column chromatography (silica gel, 1:5 ethyl acetate:methylene chloride+0.1% MeOH) to give 3-(1,3-dioxo-4-pyrrolylisoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide as a yellow solid (750 mg, 55% yield): mp, 105-107° C.; 1H NMR (CDCl3) δ1.43 (t, J=7 Hz, 3H, CH3), 2.88 (s, 3H, CH3), 3.00 (s, 3H, 2CH3), 3.04 (dd, J=4.9, 16 Hz, 1H, CHH), 3.82 (s, 3H, CH3), 3.91 (dd, J=10.2, 16.6 Hz, 1H, CHH), 4.09 (q, J=7 Hz, 2H, CH2), 5.82 (dd, J=4.9, 10.2 Hz, 1H, NCH), 6.35 (t, J=2 Hz, 2H, Ar),6.77-6.81 (m, 1H, Ar), 7.11-7.15 (m, 4H, Ar), 7.52-7.56 (m, 1H, Ar), 7.63-7.71 (m, 2H, Ar); 13C NMR (CDCl3) δ14.65, 34.71, 35.34, 37.02, 51.52, 55.83, 64.32, 110.48, 111.22, 112.76, 120.24, 120.66, 121.35, 122.02, 129.75, 132.00, 134.06, 134.94, 138.23, 148.15, 148.93, 166.19, 167.34, 169.58; Anal Calcd for C26H27N3O5+0.15 H2O: C, 67.30; H, 5.99; N, 8.85. Found: C, 67.16; H, 5.88; N, 8.92.

reactant | 3-(1,3-dioxo-4-pyrrolylisoindolin-2-yl)-3-(3-ethoxy-4-methoxy-phenyl)propanoic acid | 2.97 mmol, 1.29 g | O=C1N(C(C2=C(C=CC=C12)C=1NC=CC1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC)OCC | C24H22N2O6
reactant | carbonyldiimidazole | 2.97 mmol, 481 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
reactant | Water | 70 mL | O | H2O
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.4 mmol, 2N, 1.7 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-dioxo-4-pyrrolylisoindolin-2-yl)-3-(3-ethoxy-4-methoxyphenyl)-N,N-dimethylpropanamide | 750 mg, 55% yield | O=C1N(C(C2=C(C=CC=C12)C=1NC=CC1)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC)OCC | C26H27N3O5
